US04992432
To a solution of 8.1 g (0.053 mol) of 2-mercapto-1-phenylethanone in 100 mL of toluene under nitrogen was added 10.2 g (0.053 mol) of 3-(4-methoxyphenyl)oxiranecarboxamide and the mixture was stirred and heated in an oil bath at 120o for 3 hrs. The solvent was removed under reduced pressure to give 18.1 g of crude product, which was dissolved in a minimum amount of a mixture of methylene chloride--ethyl acetate (8:2) and chromatographed using a Waters Prep. LC-system 500 A. Eluted with the same solvents and 200 mL fractions were collected. Fractions 18-21 provided 9.3 g of crude product of which was rechromatographed using ethyl acetate--hexane (75:25) as elutants. Fraction 7 after removal of the solvent yielded a residue, which after crystallization from ethyl acetate gave 0.9 g (5%) of rac.-(R,*R*)-α-hydroxy-4-methoxyphenyl-β-[ (2-oxo-2-phenylethyl)thio]benzenepropanamide, mp 132°-134°.

reactant | 2-mercapto-1-phenylethanone | 0.053 mol, 8.1 g | SCC(=O)C1=CC=CC=C1 | C8H8OS
reactant | 3-(4-methoxyphenyl)oxiranecarboxamide | 0.053 mol, 10.2 g | COC1=CC=C(C=C1)C1C(O1)C(=O)N | C10H11NO3
reactant | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | α-hydroxy-4-methoxyphenyl-β-[ (2-oxo-2-phenylethyl)thio]benzenepropanamide | OC(C(=O)N)C(C1=C(C=CC=C1)C1=CC=C(C=C1)OC)SCC(C1=CC=CC=C1)=O | C24H23NO4S
